US06664271B1
The reaction was run in the same manner as ethyl 1-benzoyl-3-piperidinecarboxylate, starting with ethyl nipecotate (201.8 mg; 1.28 mmol) and commercially available 2-thiopheneacetyl chloride (158 μl; 1.28 mmol). The crude product was distilled at 225° C./0.1 torr, giving ethyl 1-(2-thiopheneacetyl)-3-piperidinecarboxylate (250.5 mg) as a yellow oil, which solidified on standing. MS m/z (positive ion) 304 (M+Na+; 60), 282 (MH+; 100).

reactant | ethyl 1-benzoyl-3-piperidinecarboxylate | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)OCC | C15H19NO3
reactant | ethyl nipecotate | 1.28 mmol, 201.8 mg | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 2-thiopheneacetyl chloride | 1.28 mmol, 158 μl | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | ethyl 1-(2-thiopheneacetyl)-3-piperidinecarboxylate | 250.5 mg | S1C(=CC=C1)CC(=O)N1CC(CCC1)C(=O)OCC | C14H19NO3S
